US06562828B1
7-Methylthiomethoxy-1,2,3,4-tetrahydroisoquinoline-2-carboxylic Acid Benzyl Ester
To a solution of 7-hydroxy-1,2,3,4-tetrahydroisoquinoline-2-carboxylic acid benzyl ester (2.5 g) in dimethylformamide (25 ml) was added 60% sodium hydride (390 mg) with ice-cooling and under an argon atmosphere, and the mixture was stirred at the same temperature for 30 min. Then, chloromethyl methyl sulfide (0.96 ml) was added, and the mixture was stirred at room temperature for 12 hours. After completion of the reaction, water was added and the mixture was extracted with ethyl acetate and washed with water. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated. The obtained oil was purified by silica gel column chromatography (hexane:ethyl acetate=8:1) and dried under reduced pressure to give the title compound (2.7 g).

reactant | 7-hydroxy-1,2,3,4-tetrahydroisoquinoline-2-carboxylic acid benzyl ester | 2.5 g | C(C1=CC=CC=C1)OC(=O)N1CC2=CC(=CC=C2CC1)O | C17H17NO3
reactant | sodium hydride | 390 mg | [H-].[Na+]
reactant | chloromethyl methyl sulfide | 0.96 ml | CSCCl | C2H5ClS
reactant | water | O | H2O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 7-Methylthiomethoxy-1,2,3,4-tetrahydroisoquinoline-2-carboxylic Acid Benzyl Ester | 2.7 g | C(C1=CC=CC=C1)OC(=O)N1CC2=CC(=CC=C2CC1)OCSC | C19H21NO3S
